US04064257
In this preparation a mixture of 0.064 mole of 2-ethylthio-5-(hex-5-ynylaminocarbonyl) thiazole; 40 ml. of 30% aqueous hydrogen peroxide and 200 ml. of acetic acid is stirred at a temperature of from 40° to 50° C for 4 hours. The mixture is concentrated by evaporation of a large portion of the acetic acid, under vacuum, at room temperature (about 20° C) and the resulting residue poured into 500 ml. of ethyl acetate and then washed with aqueous sodium bicarbonate solution until no acetic acid is present in the organic layer. The ethyl acetate layer is then separated, dried with anhydrous magnesium sulfate, filtered, and the resulting filtrate evaporated to dryness, under vacuum, affording 2-ethylsulfinyl-5-(hex-5-ynylaminocarbonyl)thiazole.

reactant | 2-ethylthio-5-(hex-5-ynylaminocarbonyl) thiazole | 0.064 mole | C(C)SC=1SC(=CN1)C(=O)NCCCCC#C | C12H16N2OS2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-ethylsulfinyl-5-(hex-5-ynylaminocarbonyl)thiazole | C(C)S(=O)C=1SC(=CN1)C(=O)NCCCCC#C | C12H16N2O2S2
